*Title: T1 Circuit

*  Netlist

.options savecurrents


.INCLUDE ../mat/datafrom1.txt


 
*The circuit components are defined below


Vab   0  na   0

R1   0  n2   1.04362094375k

R2   n3  n2   2.01060713289k

R3   n2  n5   3.1012701442k

R4   n5  0   4.18822801798k 

R5   n6  n5   3.09414786857k 

R6   na  n7   2.02739936235k

R7   n7  n8   1.0022809037k 

Hd   n5  n8   Vab  8.29575903566k

Gb   n6  n3   n2  n5  7.2492497599m 



.control
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

*The lines below print a table with all the values

echo  "op2_TAB"
print all
echo  "op2_END"

quit
.endc
.end








